data/mechanisms/records/IMS4-EQ4.31.json
{"mechanism_id": "IMS4-EQ4.31", "species": [{"species_id": "phenylcyclohexene_molecular_ion", "mapped_smiles": "[CH:2]1([C:1]2=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]2)[CH2:3][CH2:4][CH+:5][CH:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_radical_cation", "mapped_smiles": "[C:1]1([CH:2][CH2:3][CH2:4][CH+:5][CH:6]=[CH2:7])=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butadiene_radical_cation", "mapped_smiles": "[CH2:4][CH+:5][CH:6]=[CH2:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "styrene_neutral_loss", "mapped_smiles": "[C:1]1([CH:2]=[CH2:3])=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenylcyclohexene_molecular_ion"]}, {"state_id": "state_intermediate", "species_ids": ["ring_opened_distonic_radical_cation"]}, {"state_id": "state_products", "species_ids": ["butadiene_radical_cation", "styrene_neutral_loss"]}], "steps": [{"step_id": "step_alpha1_ring_opening", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha2_charge_retention", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha1_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 70, "equation": "4.31", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (retro-Diels-Alder)"}, "confidence": 0.85, "curator_note": "First alpha-cleavage (ring opening) of the stepwise retro-Diels-Alder of a 4-R-cyclohexene molecular ion. ARC COUNT: the book draws 3 arc(s) on the molecular ion (p.70) and all three are printed - this is a fully drawn 3-fishhook alpha-cleavage. Move <1> (top-right fishhook next to the dot) = the odd electron on the pi-ionized alkene carbon (map 6) into the forming C6=C7 pi bond; move <2> (large central arc across the top of the ring) = one electron of the breaking C2-C7 ring sigma bond into that same forming pi bond; move <3> (small top-left fishhook next to R) = the other electron of the C2-C7 bond onto the R-bearing carbon (map 2), its new radical site. LOCALIZATION (convention B/C): the alkene radical cation is drawn localized as C5(+)-C6(.), i.e. cation on map 5 (the '+' at the lower-right vertex) and the odd electron on map 6 (the dot at the upper-right vertex); the neutral C=C double bond of 4-R-cyclohexene sat between maps 5 and 6. Instantiated as R=C6H5 (4-phenylcyclohexene) so map 1 is the phenyl ipso carbon."}, {"evidence_id": "evidence_step_alpha2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha2_charge_retention", "support_type": "textbook_proposed", "locator": {"page": 70, "equation": "4.31", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (retro-Diels-Alder, charge retention)"}, "confidence": 0.85, "curator_note": "Second alpha-cleavage on the ring-opened distonic radical cation gives the CHARGE-RETENTION products (eq 4.31): the allylic/benzylic radical (map 2) drives cleavage of the C3-C4 bond. ARC COUNT: the book draws 2 arc(s) - the two fishhooks printed on the left of the intermediate. Move <1> = odd electron (map 2) into the forming C2=C3 pi bond; move <2> = one C3-C4 sigma electron into that same pi bond. Move <3>, the other C3-C4 sigma electron onto map 4 (the new radical of the departing diene ion), is an implicit homolysis hook required for electron balance (not drawn on the page - the book simply prints the dot on the butadiene fragment). Charge stays on the C4-C7 diene fragment -> butadiene radical cation, m/z 54; the R-CH=CH2 alkene (styrene for R=C6H5) leaves neutral. PRINTED INTENSITIES for m/z 54: R=H 80% (relative to cyclohexene's C5H7+ base peak = 100%, IE 9.1); R=C6H5 0.4% (IE of the styrene fragment 8.4). This record instantiates R=C6H5, hence relative_intensity 0.004 - the low value reflects that phenyl diverts the charge to the migration channel (eq 4.32)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 158.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_54", "species_id": "butadiene_radical_cation", "step_id": "step_alpha2_charge_retention", "observed_mz": 54.0464, "relative_intensity": 0.004, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
